US06248739B1
N-(4-Chlorobenzyl)-6-(3-hydroxy-1-propynyl)-1-[2-(1-piperidinyl)ethyl]-4-oxo-1,4-dihydro-3-quinolinecarboxamide
A solution of N-(4-chlorobenzyl)-4-hydroxy-6-(3-hydroxy-1-propynyl)-3-quinolinecarboxamide from Preparation No. 5 (0.367 g) is dissolved in DMF (10 mL), and K2CO3 (0.55 g, 4.0 mmol) and 1-(2-chloroethyl)piperidine hydrochloride (0.375 g, 2.0 mmol) are added. The reaction mixture is heated to 90° C. for 3 h, and then allowed to stir at room temperature for 48 h. Water is added and a precipitate formed. The precipitate is filtered and allowed to dry at room temperature and then under reduced pressure to give 0.171 g of a solid. The solid is dissolved in CHCl3 and filtered. The filtrate is concentrated in vacuo and crystallized from ethyl acetate to give 0.066 g of the title compound as a solid.

reactant | N-(4-chlorobenzyl)-4-hydroxy-6-(3-hydroxy-1-propynyl)-3-quinolinecarboxamide | ClC1=CC=C(CNC(=O)C=2C=NC3=CC=C(C=C3C2O)C#CCO)C=C1 | C20H15ClN2O3
reactant | K2CO3 | 4.0 mmol, 0.55 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-(2-chloroethyl)piperidine hydrochloride | 2.0 mmol, 0.375 g | Cl.ClCCN1CCCCC1
reactant | Water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N-(4-Chlorobenzyl)-6-(3-hydroxy-1-propynyl)-1-[2-(1-piperidinyl)ethyl]-4-oxo-1,4-dihydro-3-quinolinecarboxamide | 0.171 g | ClC1=CC=C(CNC(=O)C2=CN(C3=CC=C(C=C3C2=O)C#CCO)CCN2CCCCC2)C=C1 | C27H28ClN3O3
